US07169780B2
Step 7: Dimethyl-2-{[(amino-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate
A solution of benzyl-(2S)-2-[amino(hydroxyimino)methyl]-4,4-difluoropyrrolidine-1-carboxylate and dimethylacetylendicarboxylate (1.2 eq.) in chloroform was refluxed for 1 hour under nitrogen and the solution was concentrated. Residue was purified by flash chromatography on silica gel, (eluent: petroleum ether:ethyl acetate=7.5:2.5), to give the desired product as a 3:1 mixture of two isomers by 1H NMR.

reactant | benzyl-(2S)-2-[amino(hydroxyimino)methyl]-4,4-difluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C(=NO)N | C13H15F2N3O3
reactant | dimethylacetylendicarboxylate | 1.2 eq. | COC(=O)C#CC(=O)OC | C6H6O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Dimethyl-2-{[(amino-{(2S)-1-[(benzyloxy)carbonyl]-4,4-difluoropyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate | COC(C(=CC(=O)OC)ON=C([C@H]1N(CC(C1)(F)F)C(=O)OCC1=CC=CC=C1)N)=O | C19H21F2N3O7
